US05091384
1-Cyclopropyl-7-[3,7-diazabicyclo[3.3.0] oct-1(5)-en-3-yl]-6-fluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid
1-Cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (4.4 g) and 3,7-diazabicyclo[3.3.0] oct-1(5)-ene dihydrobromide (4.2 g) were added to diisopropyl ethylamine (11.6 ml) in acetonitrile (120 ml) and refluxed for 7 hours. The produced precipitate was filtered, washed with acetonitrile (100 ml), water (50 ml), ethanol (50 ml) and them ethyl ether (50 ml) to give the title compound (4.2 g, yield 77%).

reactant | 1-Cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 4.4 g | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)F)F)=O)C(=O)O | C13H9F2NO3
reactant | 3,7-diazabicyclo[3.3.0] oct-1(5)-ene dihydrobromide | 4.2 g | Br.Br.C1=2CNCC2CNC1
reactant | diisopropyl ethylamine | 11.6 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | acetonitrile | 120 ml | C(C)#N | C2H3N
product | 1-Cyclopropyl-7-[3,7-diazabicyclo[3.3.0] oct-1(5)-en-3-yl]-6-fluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 4.2 g, yield 77% | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)N1CC=2CNCC2C1)F)=O)C(=O)O | C19H18FN3O3
